US06376515B2
To a solution of 3,4,5-trimethoxy-2-nitrobenzoic acid (0.5 g, 1.95 mmol) in dichloromethane (5 ml) was added oxalyl chloride (0.34 ml, 3.9 mmol) and a few drops of dimethylformamide. The mixture was stirred at r.t. for 2 hrs. After the evaporation of the solvent, the residue was dissolved in dichloromethane (5 ml). 2-amino-5-bromopyridine (0.81 g, 4.7 mmol) and pyridine (0.94 ml, 11.7 mmol) were added to the solution. The mixture was stirred at r.t. overnight. After the evaporation of the solvent, the crude residue was purified by silica gel column chromatography using solvent system 25% ethyl acetate in hexane as eluent to give N-(5-bromo(2-pyridyl))(3,4,5-trimethoxy-2-nitrophenyl)carboxamide as a solid (790 mg, 98%). MS found for C15H14BrN3O6 M+=412, (M+2)+=414.

reactant | 3,4,5-trimethoxy-2-nitrobenzoic acid | 1.95 mmol, 0.5 g | COC=1C(=C(C(=O)O)C=C(C1OC)OC)[N+](=O)[O-] | C10H11NO7
reactant | oxalyl chloride | 3.9 mmol, 0.34 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-amino-5-bromopyridine | 4.7 mmol, 0.81 g | NC1=NC=C(C=C1)Br | C5H5BrN2
reactant | pyridine | 11.7 mmol, 0.94 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
catalyst | dimethylformamide | a few drops | CN(C=O)C | C3H7NO
product | N-(5-bromo(2-pyridyl))(3,4,5-trimethoxy-2-nitrophenyl)carboxamide | 790 mg, 98% | BrC=1C=CC(=NC1)NC(=O)C1=C(C(=C(C(=C1)OC)OC)OC)[N+](=O)[O-] | C15H14BrN3O6
